US05723479
Sodium hydride (60%, oily, 0.20 g) was gradually added to a solution of 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran-2-carbaldehyde (1.50 g) and diethyl cyanomethylphosphonate (0.88 g) in N,N-dimethylformamide (30 ml) at 0° C., followed by stirring at room temperature for 1 hour. The reaction mixture was poured over ice water and neutralized with 2N hydrochloric acid, followed by extraction with ethyl acetate (200 ml). After the ethyl acetate layer was washed with water and dried (MgSO4), palladium-carbon (5%, 0.70 g) was added, followed by catalytic reduction at room temperature under an atmospheric pressure of 1 atm. After the catalyst was filtered off, the filtrate was concentrated; the residue was subjected to silica gel column chromatography. From the fraction eluted with ethyl acetate-chloroform (2:98, v/v), crystals of 2-(2-cyanoethyl)-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran (1.34 g, 83%) were obtained, which was then recrystallized from dichloromethane-hexane to yield colorless prisms having a melting point of 92° to 93° C.

reactant | Sodium hydride | 0.20 g | [H-].[Na+]
reactant | 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran-2-carbaldehyde | 1.50 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)C=O)C=C1 | C20H15NO4
reactant | diethyl cyanomethylphosphonate | 0.88 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(2-cyanoethyl)-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran | 1.34 g, 83% | C(#N)CCC=1OC2=C(C1)C=CC(=C2)OCC=2N=C(OC2C)C2=CC=CC=C2 | C22H18N2O3
